US07192943B2
To a stirred solution of tert-butyl [(3E)-4-cyano-3-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-3-buten-1-yl]carbamate (1.4 g) and di-tert-butyl dicarbonate (795 mg) in tetrahydrofuran (10 ml) was added PtO2 (110 mg), and the mixture was stirred under hydrogen atmosphere for 5 days. The insoluble PtO2 was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methylene chloride=1:1) to give di-tert-butyl [3-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1,5-pentanediyl]biscarbamate (1.04 g).

reactant | tert-butyl [(3E)-4-cyano-3-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-3-buten-1-yl]carbamate | 1.4 g | C(#N)/C=C(\CCNC(OC(C)(C)C)=O)/C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C34H36N6O3
reactant | di-tert-butyl dicarbonate | 795 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | PtO2 | 110 mg | O=[Pt]=O
product | di-tert-butyl [3-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)-1,5-pentanediyl]biscarbamate | 1.04 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)C(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C39H50N6O5
